US05585394
A) Methyl 4-[3-cycloheptyl-5-ethoxy-2,3-dihydro-2-oxo-1H- benzimidazol-1-yl]sulfonyl-3-methoxybenzoate
0.095 g of sodium hydride as a 60% dispersion in oil is added to a mixture of 0.7 g of 3-cycloheptyl-5-ethoxy-1,3-dihydro-2H-benzimidazol-2-one and 50 ml of DMF and the mixture is stirred for 30 minutes at RT. 0.7 g of 4-methoxycarbonyl-2-methoxybenzenesulfonyl chloride is then added and the mixture is stirred overnight at RT. The reaction mixture is poured into iced water and the precipitate formed is filtered off and washed with water to give 0.9 g of the expected product, which is used as such in the next step.

reactant | sodium hydride | 0.095 g | [H-].[Na+]
reactant | 3-cycloheptyl-5-ethoxy-1,3-dihydro-2H-benzimidazol-2-one | 0.7 g | C1(CCCCCC1)N1C(NC2=C1C=C(C=C2)OCC)=O | C16H22N2O2
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
reactant | 4-methoxycarbonyl-2-methoxybenzenesulfonyl chloride | 0.7 g | COC(=O)C1=CC(=C(C=C1)S(=O)(=O)Cl)OC | C9H9ClO5S
solvent | water | O | H2O
product | Methyl 4-[3-cycloheptyl-5-ethoxy-2,3-dihydro-2-oxo-1H- benzimidazol-1-yl]sulfonyl-3-methoxybenzoate | 0.9 g | C1(CCCCCC1)N1C(N(C2=C1C=C(C=C2)OCC)S(=O)(=O)C2=C(C=C(C(=O)OC)C=C2)OC)=O | C25H30N2O7S
